US06177459B1
After the addition of 2.5 g of p-toluenesulphonic acid hydrate, 34.5 g (0.5 mol) of triazole in 222 g (1.5 mol) of triethyl orthoforrnate are heated until the internal temperature reaches 150° C., while ethanol is distilled off. 2 g of sodium carbonate are added and the mixture is distilled using high vacuum. 48.6 g (56.8% of theory) of N-diethoxymethyltriazole are obtained.

reactant | triazole | 0.5 mol, 34.5 g | N1N=NC=C1 | C2H3N3
reactant | triethyl orthoforrnate | 1.5 mol, 222 g | C(OCC)(OCC)OCC | C7H16O3
catalyst | p-toluenesulphonic acid hydrate | 2.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol | C(C)O | C2H6O
product | N-diethoxymethyltriazole | 48.6 g, 56.8% | C(C)OC(N1N=NC=C1)OCC | C7H13N3O2
